US06444668B1
6-Chloro4methyl-4-trifluoromethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one
Prepared from 1-(2-amino-5-chloro-phenyl)-2,2,2-trifluoro-ethanone by addition of methylmagnesium bromide followed by treatment of the resultant carbinol with 1,1′-carbonyldiimidazole according to the procedure of Example 2. White solid: mp 216-216° C.; 1H-NMR (DMSO-d6) δ10.91 (bs, 1H, D2O exchangeable), 7.64 (d, 1H, J=1.6 Hz), 7.49 (dd, 1H, J=8.6, 2.3 Hz), 6.95 (d, 1H, J=8.6 Hz), 1.91 (s, 3H); 19F-NMR (DMSO-d6) δ−82.0 (s, 1F); MS (EI) m/z 264 ([M−H]−, 100%), 266 ([M−H]−33%). Anal. Calc. For C10H7ClF3NO2: C, 45.22, H, 2.66, N, 5.27. Found: C, 45.32, H, 2.77, N, 4.83.

reactant | 1-(2-amino-5-chloro-phenyl)-2,2,2-trifluoro-ethanone | NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)=O | C8H5ClF3NO
reactant | methylmagnesium bromide | C[Mg]Br
reactant | 1,1′-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | carbinol | CO | CH4O
product | 6-Chloro4methyl-4-trifluoromethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | ClC1=CC2=C(NC(OC2(C(F)(F)F)C)=O)C=C1 | C10H7ClF3NO2
